US04818761
(a) Preparation of 1-isopropyl-2-chloromethylbenzimidazole
N-isopropyl-o-phenylenediamine (2.8 g, 18.6 mmol), which is a known compound, was reacted with monochloroacetic acid (2.64 g, 28 mmol) in hydrochloric acid. The reaction mixture was made to weak by alkaline alkali with aqueous ammonia and the obtained oily material was refined in a usual manner to give the title intermediate (2.5 g, 12 mmol).

reactant | N-isopropyl-o-phenylenediamine | 18.6 mmol, 2.8 g | C(C)(C)NC1=C(C=CC=C1)N | C9H14N2
reactant | monochloroacetic acid | 28 mmol, 2.64 g | ClCC(=O)O | C2H3ClO2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | Cl | ClH
product | 1-isopropyl-2-chloromethylbenzimidazole | 12 mmol, 2.5 g | C(C)(C)N1C(=NC2=C1C=CC=C2)CCl | C11H13ClN2
